datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3](=[O:4])[H:14])[C:5]([O:6][O:7][H:17])([H:15])[H:16])([H:8])([H:9])[H:10]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3](=[O:4])[H:14])[C:5]([O:6])([H:15])[H:16])([H:8])([H:9])[H:10].[O:7][H:17],179.912
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:4])([H:5])[H:6].[O:14][O:15][H:16]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[H:4][O:14][O:15][H:16],71.79744
[C:0]([C:1]([C:2]1=[C:3]([H:17])[C:4]([H:18])([H:19])[C:5]([H:20])([H:21])[c:6]2[c:7]([H:22])[c:8]([H:23])[c:9]([H:24])[c:10]([H:25])[c:11]21)([H:15])[H:16])([H:12])([H:13])[H:14].[H:26]>>[C:0]([C:1]([C:2]1[C:3]([H:17])([H:26])[C:4]([H:18])([H:19])[C:5]([H:20])([H:21])[c:6]2[c:7]([H:22])[c:8]([H:23])[c:9]([H:24])[c:10]([H:25])[c:11]21)([H:15])[H:16])([H:12])([H:13])[H:14],8.0185
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]([C:11]#[C:12][C:13]([H:17])([H:18])[H:19])[H:16])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:11]([C:10](=[C:9]([H:14])[H:15])[H:16])=[C:12][C:13]([H:17])([H:18])[H:19])[H:4],51.5469
[C:0]1([H:6])[C:1]([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]([H:11])([H:12])[C:4]([H:13])([H:14])[C:5]1([H:15])[H:16].[C:17](=[C:18]([H:20])[H:21])[H:19]>>[C:0]1([H:6])([C:17](=[C:18]([H:20])[H:21])[H:19])[C:1]([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]([H:11])([H:12])[C:4]([H:13])([H:14])[C:5]1([H:15])[H:16],0.0
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[C:12](=[C:13][C:14]([H:17])([H:18])[H:19])([H:15])[H:16]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[H:6][C:13](=[C:12]([H:15])[H:16])[C:14]([H:17])([H:18])[H:19],85.772
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[C:10](=[S:11])[H:12]>>[C:0](=[C:1][C:2](=[C:3]([H:8])[H:9])[H:7])([H:4])[H:5].[H:6][C:10](=[S:11])[H:12],63.5968
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3](=[O:4])[H:11])([H:5])([H:6])[H:7].[C:12]([H:13])([H:14])[H:15]>>[C:0](=[C:1]([C:2]([H:8])([H:9])[H:10])[C:3](=[O:4])[H:11])([H:6])[H:7].[H:5][C:12]([H:13])([H:14])[H:15],-0.548104
[C:0](=[C:1]([C:2](=[C:3]([C:4]([C:5]([C:6]([C:7]([H:18])([H:19])[H:20])[H:17])([H:15])[H:16])([H:13])[H:14])[H:12])[H:11])[H:10])([H:8])[H:9]>>[C:0](=[C:1]([C:2]1([H:11])[C:3]([H:12])[C:4]([H:13])([H:14])[C:5]([H:15])([H:16])[C:6]1([C:7]([H:18])([H:19])[H:20])[H:17])[H:10])([H:8])[H:9],72.3414
[C:0](=[C:1]([C:2]([S:3][H:8])[H:7])[H:6])([H:4])[H:5].[S:9]=[C:10]([S:11][H:13])[H:12]>>[C:0](=[C:1]([C:2]([S:3][H:8])([H:7])[H:12])[H:6])([H:4])[H:5].[S:9]=[C:10][S:11][H:13],150.457
[C:0](#[C:1][C:2](=[C:3]([C:4]#[C:5][H:9])[H:8])[H:7])[H:6].[C:10]([C:11]([C:12]([H:17])([H:18])[H:19])[C:13]([H:20])([H:21])[H:22])([H:14])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([C:4]#[C:5][H:9])[H:8])([H:7])[C:11]([C:10]([H:14])([H:15])[H:16])([C:12]([H:17])([H:18])[H:19])[C:13]([H:20])([H:21])[H:22])[H:6],0.2092
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]([C:8]#[C:9][C:10](=[C:11]([H:16])[H:17])[H:15])[H:14])([H:12])[H:13]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:8]([C:7](=[C:6]([H:12])[H:13])[H:14])=[C:9][C:10](=[C:11]([H:16])[H:17])[H:15])[H:3],39.9154
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6]([C:7](=[C:8]([C:9]([H:15])([H:16])[H:17])[C:10]([H:18])([H:19])[H:20])[H:14])([H:11])([H:12])[H:13]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:7]([C:6]([H:11])([H:12])[H:13])([C:8]([C:9]([H:15])([H:16])[H:17])[C:10]([H:18])([H:19])[H:20])[H:14])[H:3],42.3839
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[C:17]([C:18]([C:19]([C:20]([H:30])([H:31])[H:32])([C:21]([O:22][O:23])([H:33])[H:34])[H:29])([H:27])[H:28])([H:24])([H:25])[H:26]>>[C:0]([C:1]([C:2]([C:3]([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[H:11][O:23][O:22][C:21]([C:19]([C:18]([C:17]([H:24])([H:25])[H:26])([H:27])[H:28])([C:20]([H:30])([H:31])[H:32])[H:29])([H:33])[H:34],85.47912
[C:0]([C:1]1([H:12])[C:2]([H:13])([H:14])[C:3]([H:15])([H:16])[C:4]([O:5][O:6])([H:17])[C:7]([H:18])([H:19])[C:8]1([H:20])[H:21])([H:9])([H:10])[H:11]>>[C:0]([C:1]1([H:12])[C:2]([H:13])([H:14])[C:3]([H:16])[C:4]([O:5][O:6][H:15])([H:17])[C:7]([H:18])([H:19])[C:8]1([H:20])[H:21])([H:9])([H:10])[H:11],86.052328
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])=[C:5]([C:6]([H:19])([H:20])[H:21])[c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[H:15])([H:13])[H:14].[C:27](=[C:28]([C:29]([C:30]([H:36])([H:37])[H:38])[C:31](=[C:32]([H:40])[H:41])[H:39])[H:35])([H:33])[H:34]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])[C:5]([C:6]([H:19])([H:20])[H:21])([c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[C:29]([C:28](=[C:27]([H:33])[H:34])[H:35])([C:30]([H:36])([H:37])[H:38])[C:31](=[C:32]([H:40])[H:41])[H:39])[H:15])([H:13])[H:14],66.7766
